US08067448B2
4-Bromo-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)benzohydrazide
To a solution of 4-bromo-N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)benzohydrazide (4.0 g, 8.6 mmol) in DMF (60 mL) were added imidazole (2.3 g, 33.8 mmol) and TBSCl (2.6 g, 17.2 mmol) at 0° C. After addition, the mixture was allowed to warm to room temperature gradually and stirred overnight. The reaction was quenched by adding ice-water and extracted with EtOAc. The EtOAc extracts were washed with water, brine and dried over Na2SO4. Removal of the solvent gave a residue, which was purified by SiO2 column to give the title compound (4.68 g, 94%), which was used directly in the next step.

reactant | 4-bromo-N′-((2R,3S)-2-(3-chloro-4-cyano-2-methylphenylamino)-3-hydroxybutanoyl)benzohydrazide | 8.6 mmol, 4.0 g | BrC1=CC=C(C(=O)NNC([C@@H]([C@H](C)O)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=C1 | C19H18BrClN4O3
reactant | imidazole | 33.8 mmol, 2.3 g | N1C=NC=C1 | C3H4N2
reactant | TBSCl | 17.2 mmol, 2.6 g | CC(C)(C)[Si](C)(C)Cl | C6H15ClSi
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | 4-Bromo-N′-((2R,3S)-3-(tert-butyldimethylsilyloxy)-2-(3-chloro-4-cyano-2-methylphenylamino)butanoyl)benzohydrazide | 4.68 g, 94% | BrC1=CC=C(C(=O)NNC([C@@H]([C@H](C)O[Si](C)(C)C(C)(C)C)NC2=C(C(=C(C=C2)C#N)Cl)C)=O)C=C1 | C25H32BrClN4O3Si
